US07868014B2
Add 2,6-dibromopyridine (500 mg, 2.11 mmol), pyrrolidin-3-ylcarbamic acid tert-butyl ester (372 mg, 2.00 mmol), tris(dibenzylideneacetone)dipalladium (0) (193 mg, 0.21 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (526 mg, 0.84 mmol), and cesium carbonate (1.37 g, 4.21 mmol) to a dry flask under nitrogen. Add degassed anhydrous toluene (10 mL) to the flask. Heat at 100° C. for one hour. Cool to room temperature and dilute with dichloromethane, filter through a pad of Celite®, concentrate to give a residue. Chromatograph the residue on silica gel eluting with 10:90 to 20:80 ethyl acetate:hexanes to give (3S)-[1-(6-bromopyridin-2-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester (260 mg, 38%). 1H NMR (400 MHz, MeOH-d4) δ 7.31 (t, 1H, J=8.0 Hz), 6.66 (d, 1H, J=8.0 Hz), 6.36 (d, 1H, J=8.0 Hz), 4.22-4.16 (m, 1H), 3.68-3.64 (m, 1H), 3.56-3.49 (m, 1H), 3.47-3.41 (m, 1H), 3.26-3.22 (m, 1H), 2.26-2.18 (m, 1H), 1.98-1.90 (m, 1H), 1.44 (s, 9H).

reactant | 2,6-dibromopyridine | 2.11 mmol, 500 mg | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | pyrrolidin-3-ylcarbamic acid tert-butyl ester | 2.00 mmol, 372 mg | C(C)(C)(C)OC(NC1CNCC1)=O | C9H18N2O2
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.84 mmol, 526 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 4.21 mmol, 1.37 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.21 mmol, 193 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S)-[1-(6-bromopyridin-2-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 260 mg, 38% | C(C)(C)(C)OC(N[C@@H]1CN(CC1)C1=NC(=CC=C1)Br)=O | C14H20BrN3O2
